US03962321
Twenty to 30 ml of the recovered acetal is mixed with an equal volume of 50% citric acid solution and boiled gently in a Claisen flask. Methanol is allowed to boil off until the distillate temperature reaches 95°F , at which point distillation is stopped. The flask contents are 2X water washed, followed by a 5% sodium carbonate solution. The resulting oil is vacuum distilled to yield relatively pure trans-2-nonenal. Further purification is obtained, if desired, by gas chromatography.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Methanol | CO | CH4O
product | trans-2-nonenal | C(\C=C\CCCCCC)=O | C9H16O
